US06869962B2
[2-(2-Hydroxy-butyl)-5-methoxy-phenyl]-carbamic acid t-butyl Ester
To a solution of (5-methoxy-2-methyl-phenyl)-carbamic acid t-butyl ester (6.95 g, 29.3 mmole) in 100 ml THF cooled at −45° C. was added sec-BuLi (45 ml, 58.5 mmole) slowly to keep temperature lower than −45° C. The reaction mixture was stirred and warmed to −20° C., then cooled to −45° C. and propionaldehyde (2.67 ml, 36.63 mmole) was added. The reaction mixture was stirred and warmed to room temperature for 1 h, quenched with 1N HCl and extracted with EtOAc, dried over MgSO4 and concentrated. The residue was purified by flash column chromatography (10-15% EtOAc in hexane) to give colorless oil (3.40 g, 39%). 1H NMR (CDCl3) δ7.96 (1H, s), 7.44 (1H, s), 6.96-7.00 (1H, m), 6.55 (1H, m), 3.80 (3H, s), 2.60-2.76 (2H, m), 1.93-1.95 (2H, m), 1.50 (9H, s), 0.93-1.01 (4H, m). ESIMS (MNa+): 318.20.

reactant | (5-methoxy-2-methyl-phenyl)-carbamic acid t-butyl ester | 29.3 mmole, 6.95 g | C(C)(C)(C)OC(NC1=C(C=CC(=C1)OC)C)=O | C13H19NO3
reactant | sec-BuLi | 58.5 mmole, 45 ml | [Li]C(C)CC
reactant | propionaldehyde | 36.63 mmole, 2.67 ml | C(CC)=O | C3H6O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | [2-(2-Hydroxy-butyl)-5-methoxy-phenyl]-carbamic acid t-butyl Ester | 3.40 g, 39% | C(C)(C)(C)OC(NC1=C(C=CC(=C1)OC)CC(CC)O)=O | C16H25NO4
